US07709509B2
To a solution of 100 mg of 3-{2-methoxy-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one in 1 ml of acetonitrile was added 0.08 g of N-bromosuccinimide. The resulting mixture was heated to 70° C. overnight, concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (gradient of dichloromethane/methanol from 100/0 to 94/6) and washed with 94/6 dichloromethane/methanol to give 35 mg of 3-{5-bromo-2-methoxy-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one.

reactant | 3-{2-methoxy-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one | 100 mg | COC1=C(C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C1=NOC(N1)=O | C21H16F3N3O4S
reactant | N-bromosuccinimide | 0.08 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | 3-{5-bromo-2-methoxy-4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-[1,2,4]oxadiazol-5-one | 35 mg | BrC=1C(=CC(=C(C1)C1=NOC(N1)=O)OC)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C21H15BrF3N3O4S
